US09145441B2
Compound 81f. (S)-1-{(S)-2-[(S)-2-((E)-(R)-2-Cyclopropylmethyl-pent-3-enoylamino)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid (R)-1-(7-vinyl-quinolin-2-yl)-ethyl ester
A cooled (0° C.) solution of (S)-1-[(S)-2-((S)-2-tert-butoxycarbonylamino-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid (R)-1-(7-vinyl-quinolin-2-yl)-ethyl ester (340 mg, 0.585 mmol) in anhydrous dichloromethane (20 mL) under nitrogen was treated with trimethylsilyl-trifluoromethanesulfonate (212 μL, 1.17 mmol). After stirring for 1.5 h at 0° C., the reaction was quenched with saturated sodium bicarbonate solution and stirred for 20 minutes. The organic layer was separated and washed with saturated sodium bicarbonate solution. The organics were dried over anhydrous sodium sulfate, filtered and evaporated. To the residue in anhydrous acetonitrile (15 mL) was added 4 Å molecular sieves (1 g) followed by a solution of (E)-(R)-2-cyclopropylmethyl-pent-3-enoic acid (108 mg, 0.702 mmol) in anhydrous acetonitrile (5 mL). N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (157 mg, 0.819 mmol) and 1-hydroxybenzotriazole (119 mg, 0.702 mmol) were then added and the resulting mixture stirred for 69 h. The reaction mixture was filtered through Celite with dichloromethane and the filtrate was washed with saturated aqueous ammonium chloride solution, water then brine. The organics were dried over anhydrous sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 1:1 to 0:1 to afford the title compound (142 mg, 39%) as a white solid. 1H NMR (300 MHz, CDCl3) δ 0.03-0.12 (m, 2H), 0.37-0.45 (m, 2H), 0.63-0.71 (m, 1H), 0.87-0.94 6H), 1.30 (d, J=6.9 Hz, 3H), 1.45-1.66 (m, 2H), 1.71-1.74 (m, 6H), 1.92-1.95 (m, 1H), 2.02-2.09 (m, 1H), 2.12-2.20 (m, 1H), 2.75-2.87 (m, 1H), 2.93 (q, J=7.3 Hz, 1H), 3.58-3.68 (m, 1H), 3.81-3.91 (m, 1H), 4.27 (dd, J=8.5, 6.1 Hz, 1H), 4.45 (br d J=12.5 Hz, 1H), 5.28 (app pentet, J=6.9 Hz, 1H), 5.44 (br d J=10.9 Hz, 1H), 5.48-5.65 (m, 2H), 5.98 (d, J=17.6 Hz, 1H), 6.13 (q, J=6.7 Hz, 1H), 6.19-6.24 (m, 1H), 6.65 (br d, J=7.6 Hz, 1H), 6.93 (dd, J=17.5, 10.8 Hz, 1H), 7.41 (d, J=8.5 Hz, 1H), 7.69 (dd, J=8.5, 1.3 Hz, 1H), 7.79 (d, J=8.5 Hz, 1H), 8.04 (s, 1H), 8.18 (d, J=8.5 Hz, 1H). LCMS (m/z) 618.3 [M+H], Tr=3.07 min.

reactant | (S)-1-[(S)-2-((S)-2-tert-butoxycarbonylamino-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid (R)-1-(7-vinyl-quinolin-2-yl)-ethyl ester | 0.585 mmol, 340 mg | C(=C)C1=CC=C2C=CC(=NC2=C1)[C@@H](C)OC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)=O | C31H43N5O6
reactant | trimethylsilyl-trifluoromethanesulfonate | 1.17 mmol, 212 μL | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | (E)-(R)-2-cyclopropylmethyl-pent-3-enoic acid | 0.702 mmol, 108 mg | C1(CC1)C[C@@H](C(=O)O)\C=C\C | C9H14O2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.819 mmol, 157 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.702 mmol, 119 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (S)-1-{(S)-2-[(S)-2-((E)-(R)-2-Cyclopropylmethyl-pent-3-enoylamino)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid (R)-1-(7-vinyl-quinolin-2-yl)-ethyl ester | 142 mg, 39% | C(=C)C1=CC=C2C=CC(=NC2=C1)[C@@H](C)OC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)NC([C@@H](\C=C\C)CC1CC1)=O)=O)=O | C35H47N5O5
